US05786486
To 6.00 g (16.3-mmol) of N,N'-bis(2-hydroxy-1,1-dimethylethyl)-2,3-dimethoxy-1,4-phenylenedicarboxamide, was added 7.0 mL (96.0 mmol) of thionyl chloride. The mixture was stirred at room temperature for 3 hours. Further thereto, 7.0 mL (96.0 mmol) of thionyl chloride was added, and the mixture was stirred at room temperature for one hour. The reaction solution was poured into 50 mL of ether. The supernatant liquid was removed by decantation. Aqueous 10% sodium hydroxide solution was added to the residue to bring the pH to 8. It was extracted with ether, and was dried over anhydrous sodium sulfate. The solvent was removed by distillation, and the residue was purified by silca gel column chromatography (methylene chloride:ethanol=20:1) to obtain 2.52 g (47%) of 2,2'-(2,3-dimethoxy-1,4-phenylene)-bis (4,4-dimethyl-2-oxazoline) in a colorless crystal state.

reactant | N,N'-bis(2-hydroxy-1,1-dimethylethyl)-2,3-dimethoxy-1,4-phenylenedicarboxamide | 16.3-mmol, 6.00 g | OCC(C)(C)NC(=O)C1=C(C(=C(C=C1)C(=O)NC(CO)(C)C)OC)OC | C18H28N2O6
reactant | thionyl chloride | 96.0 mmol, 7.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 96.0 mmol, 7.0 mL | S(=O)(Cl)Cl | Cl2OS
solvent | ether | 50 mL | CCOCC | C4H10O
product | 2,2'-(2,3-dimethoxy-1,4-phenylene)-bis (4,4-dimethyl-2-oxazoline) | 2.52 g, 47% | COC1=C(C=CC(=C1OC)C=1OCC(N1)(C)C)C=1OCC(N1)(C)C | C18H24N2O4
